US05436247
A mixture of 4-bromobutyric acid benzyl ester (23.7 g), imidazole (8.1 g), potassium carbonate (14.0 g) and acetone (400 ml) was stirred under refluxing conditions for 6 hours. After the reaction mixture was cooled to room temperature, the insoluble solid was filtered off, the filtrate was concentrated. The residual oily substance was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol (20:1, v/v) to yield 4-(1-imidazolyl)butyric acid benzyl ester (7.3 g, 33%) as an oily substance.

reactant | 4-bromobutyric acid benzyl ester | 23.7 g | C(C1=CC=CC=C1)OC(CCCBr)=O | C11H13BrO2
reactant | imidazole | 8.1 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 14.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 4-(1-imidazolyl)butyric acid benzyl ester | 7.3 g, 33% | C(C1=CC=CC=C1)OC(CCCN1C=NC=C1)=O | C14H16N2O2
